US04254135
Trans-N-(1-cyclohexyl-4-hydroxypyrrolidin-3-yl)-N-methyl-1-naphthalenecarboxamide Hydrochloride.
A solution of 10 g (0.05 mole) of trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol in 100 ml of methylene chloride was mixed with 10 g of powdered anhydrous potassium carbonate and stirred while a solution of 10 g (0.05 mole) of 1-naphthoyl chloride in 50 ml of methylene chloride was added dropwise. The mixture was stirred for 2 hrs and then heated at reflux for 24 hrs. After cooling, the mixture was washed with water and the organic fraction was evaporated under vacuum. The residue was chromatographed on silica gel, eluting with acetone. Ten grams of the base, 56% yield, were collected and converted to the hydrochloride. After recrystallization from isopropyl alcohol, the salt melted at 238°-241° C.

reactant | trans-1-cyclohexyl-4-methylamino-3-pyrrolidinol | 0.05 mole, 10 g | C1(CCCCC1)N1C[C@H]([C@@H](C1)NC)O | C11H22N2O
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-naphthoyl chloride | 0.05 mole, 10 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Trans-N-(1-cyclohexyl-4-hydroxypyrrolidin-3-yl)-N-methyl-1-naphthalenecarboxamide Hydrochloride | 56% yield | Cl.C1(CCCCC1)N1C[C@H]([C@@H](C1)O)N(C(=O)C1=CC=CC2=CC=CC=C12)C | InChI=1S/C22H28N2O2.ClH/c1-23(20-14-24(15-21(20)25)17-10-3-2-4-11-17)22(26)19-13-7-9-16-8-5-6-12-18(16)19;/h5-9,12-13,17,20-21,25H,2-4,10-11,14-15H2,1H3;1H/t20-,21-;/m1./s1
